US08871756B2
1-(2-Sulfanylphenyl)ethanone
To a stirred suspension of aluminium chloride (10.50 g, 78.8 mmol) in dry benzene (200 mL) was added a solution of 1-[2-(benzylsulfanyl)phenyl]ethan-1-one (11.93 g, 49.2 mmol) in dry benzene (100 mL) dropwise in an ice bath under argon atmosphere. After the reaction mixture being stirred at room temperature overnight, the reaction was quenched by the cautious addition of ice-water. The separated organic layer was washed with water and extracted with 5% aqueous solution of sodium hydroxide (300 mL). The aqueous layer was acidified to about pH 3 with concentrated hydrochloric acid (12 N) and extracted with dichloromethane (300 mL×3). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, concentrated in vacuo to afford 6.47 g of the crude product 1-(2-sulfanylphenyl)ethanone.

reactant | aluminium chloride | 78.8 mmol, 10.50 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1-[2-(benzylsulfanyl)phenyl]ethan-1-one | 49.2 mmol, 11.93 g | C(C1=CC=CC=C1)SC1=C(C=CC=C1)C(C)=O | C15H14OS
solvent | benzene | 200 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
product | 1-(2-Sulfanylphenyl)ethanone | 6.47 g | SC1=C(C=CC=C1)C(C)=O | C8H8OS
